US07723336B2
Ethyl 1H-pyrazol-5-ylcarbamothioylcarbamate (4.64 g, 21.68 mmol) from 1a was added to 2N NaOH solution (51 mL). The reaction mixture was stirred at room temperature for 2½ hours and then acidified with 2NH2SO4. The resulting precipitate was collected by vacuum filtration, washed with water followed by diethyl ether, and then air dried to give 3.32 g (82%) of 2-thioxo-2,3-dihydropyrazolo[1,5-a][1,3,5]triazin-4(1H)-one as a pale yellow solid.

reactant | Ethyl 1H-pyrazol-5-ylcarbamothioylcarbamate | 21.68 mmol, 4.64 g | N1N=CC=C1NC(=S)NC(OCC)=O | C7H10N4O2S
reactant | NaOH | 2N, 51 mL | [OH-].[Na+]
product | 2-thioxo-2,3-dihydropyrazolo[1,5-a][1,3,5]triazin-4(1H)-one | 3.32 g, 82% | S=C1NC=2N(C(N1)=O)N=CC2 | C5H4N4OS
